US09120823B2
A mixture of N2-methyl-5-trifluoromethylpyridin-2,3-diamine (0.76 g), 3-fluoropyridin-2-carboaldehyde (0.50 g), sodium hydrogen sulfite (0.50 g) and DMF (3 ml) was stirred at 120° C. for 8 hours. To the cooled reaction mixture was added saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 2-(3-fluoropyridin-2-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (0.43 g), which is hereinafter referred to as “intermediate compound (M6-2)”.

reactant | N2-methyl-5-trifluoromethylpyridin-2,3-diamine | 0.76 g | CNC1=NC=C(C=C1N)C(F)(F)F | C7H8F3N3
reactant | 3-fluoropyridin-2-carboaldehyde | 0.50 g | FC=1C(=NC=CC1)C=O | C6H4FNO
reactant | sodium hydrogen sulfite | 0.50 g | S(=O)(O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-(3-fluoropyridin-2-yl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.43 g | FC=1C(=NC=CC1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C13H8F4N4
